US04172960
4-Methoxy-3,5-dihydroxybenzoic acid
Treatment of 4-bromo-3,5-dihydroxybenzoic acid (23.3 g, 0.1 mole) with sodium methoxide (18.5 g, 0.8 g atom) in an analogous procedure to that of Example 9 with a 9 hour reflux yielded 12 g (theory 18.4 g) of a white solid, m.p 238°-42° C. NMR showed this to be 45% title product and 55% starting material.

reactant | 4-bromo-3,5-dihydroxybenzoic acid | 0.1 mole, 23.3 g | BrC1=C(C=C(C(=O)O)C=C1O)O | C7H5BrO4
reactant | sodium methoxide | 18.5 g | C[O-].[Na+]
product | 4-Methoxy-3,5-dihydroxybenzoic acid | 45% | COC1=C(C=C(C(=O)O)C=C1O)O | C8H8O5
